US08426437B2
8-Acetyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate (101)
Synthesis of 5-acetyl-1,3-dihydro-indol-2-one is described by Peng Cho Tang (US2003/0069421 A1). This compound was prepared according to this procedure from 6.65 g (50 mmol) of 1,3-dihydro-indol-2-one, aluminium trichloride (150 mmol) and acetyl chloride (100 mmol) to give, after trituration in water and drying, 7.32 g (83%) of 5-acetyl-1,3-dihydro-indol-2-one in the form of a beige solid.

reactant | 5-acetyl-1,3-dihydro-indol-2-one | C(C)(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO2
reactant | 1,3-dihydro-indol-2-one | 50 mmol, 6.65 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | aluminium trichloride | 150 mmol | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | acetyl chloride | 100 mmol | C(C)(=O)Cl | C2H3ClO
product | 8-Acetyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | C(C)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C13H10N2O2.C3H6O2/c1-7(16)8-2-3-11-10(6-8)9-4-5-14-12(9)13(17)15-11;1-2-3(4)5/h2-6,14H,1H3,(H,15,17);2H2,1H3,(H,4,5)/p-1
